US07582760B2
(1-Benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-acetaldehyde (90 mg, 0.29 mmol) was dissolved in acetone and p-toluene sulfonic acid (10 mg) added. The mixture was stirred for 2 hours and then partitioned between ethyl acetate and water. After washing with saturated sodium bicarbonate, water, and brine, the organic layer was dried over Na2SO4, filtered, and concentrated to afford 1-benzyl-4-(2-hydroxy-ethyl)-1,3-dihydro-benzoimidazol-2-one (80 mg, quant). 1H NMR (CDCl3) δ 3.84 (d, 2H, J=2.1 Hz), 5.06 (s, 2H), 6.80-7.02 (M, 3H), 7.20-7.33 (m, 5H), 9.78 (t, 1H, J=2.0 Hz), 10.7 (br s, 1H). MS: 265 (M−H)−.

reactant | (1-Benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-acetaldehyde | 0.29 mmol, 90 mg | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2CC=O)=O | C16H14N2O2
reactant | p-toluene sulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | CC(=O)C | C3H6O
product | 1-benzyl-4-(2-hydroxy-ethyl)-1,3-dihydro-benzoimidazol-2-one | 80 mg | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2CCO)=O | C16H16N2O2
